US07053089B2
4-[(5-Cyano-3-methoxypyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester
To 4-[(5-bromo-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester (0.5 g, 0.00125 mol) in DMSO (10 mL), under nitrogen, was added copper cyanide (0.565 g, 0.00625 mol) and the mixture heated to 150° C. for 1.5 h. The reaction mixture was cooled to rt, diluted with a mixture of 20% ammonium hydroxide in water (50 mL) and dichloromethane (50 mL) and allowed to stir for 1 h. The organic layer was removed, dried over sodium sulfate, filtered and concentrated to an oil. The oil was chromatographed on silica using a gradient of 20–40% ethyl acetate/hexane to give the title compound as a foam. M.S.(M+1): 348.

reactant | 4-[(5-bromo-3-methoxy-pyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 0.00125 mol, 0.5 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=C(N=C1OC)Br | C16H25BrN4O3
reactant | copper cyanide | 0.00625 mol, 0.565 g | [Cu](C#N)C#N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 50 mL | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-[(5-Cyano-3-methoxypyrazin-2-ylamino)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=NC=C(N=C1OC)C#N | C17H25N5O3
